US07777047B2
N-methyl-N-[2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-5-(trifluoromethoxy)-1H-indol-7-yl]thiophene-2-sulfonamide
To a solution of triphenylphosphine oxide (670 mg) in dichloromethane (15 mL) was added trifluoromethanesulfonic anhydride (340 mg) under ice-cooling, and the mixture was stirred for 10 min. A solution of N-[2-(benzylthio)-3-morpholinopropyl]-7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide (400 mg) and dimethylsulfide (40 mg) in dichloromethane (15 mL) was added dropwise to the reaction mixture under ice-cooling, and the mixture was stirred for 2 hr under ice-cooling. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to basic silica gel column chromatography, and eluted with hexane-ethyl acetate (4:1-2:1, volume ratio). The obtained compound was further purified by preparative HPLC to give the title compound (150 mg, yield 44%) as white crystals. The crystals were recrystallized from ethyl acetate-hexane to give colorless prism crystals. melting point 165-166° C.

reactant | triphenylphosphine oxide | 670 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 340 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-[2-(benzylthio)-3-morpholinopropyl]-7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide | 400 mg | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OC(F)(F)F)N(S(=O)(=O)C=1SC=CC1)C)CN1CCOCC1 | C29H31F3N4O5S3
reactant | dimethylsulfide | 40 mg | CSC | C2H6S
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | N-methyl-N-[2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-5-(trifluoromethoxy)-1H-indol-7-yl]thiophene-2-sulfonamide | 150 mg, yield 44% | CN(S(=O)(=O)C=1SC=CC1)C=1C=C(C=C2C=C(NC12)C=1SC(CN1)CN1CCOCC1)OC(F)(F)F | C22H23F3N4O4S3
